US05399561
4,4-dimethyl-6-ethynyl-2-oxo-chroman
To a solution of 2.15 g (8.0 mmol) of 4,4-dimethyl-6-trimethylsilylethynyl-2-oxo-chroman in 25 ml of methanol was added, under nitrogen, 1.0 g of potassium carbonate. The reaction mixture was stirred at room temperature for 12 hours and the methanol was then removed under vacuum. The residue was extracted with methylene chloride (2×15 ml) and the combined organic layers were washed with dilute HCl, water, brine and dried (MgSO4). The solvent was removed in-vacuo and the residue purified by Kugelrohr distillation to give the title compound as a yellow oil.

reactant | 4,4-dimethyl-6-trimethylsilylethynyl-2-oxo-chroman | 8.0 mmol, 2.15 g | CC1(CC(OC2=CC=C(C=C12)C#C[Si](C)(C)C)=O)C | C16H20O2Si
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 25 ml | CO | CH4O
product | 4,4-dimethyl-6-ethynyl-2-oxo-chroman | CC1(CC(OC2=CC=C(C=C12)C#C)=O)C | C13H12O2
